US05104867
16-(1) (2S, 4S)-2-Carbamoyl-1-(2-hydroxyethyl)-4-(4-methoxybenzylthio)pyrrolidine
0.175 ml of 2-iodoethanol and 0.16 g of sodium bicarbonate were added, whilst ice-cooling, to a solution of 0.5 g of (2S, 4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine [prepared as described in preparation 1-(5)] dissolved in 5 ml of dry dimethylformamide, and the mixture was stirred at the same temperature for 1 hour, at room temperature for 2.5 hours, and at 40° C. for 19 hours. The reaction mixture was then poured into a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was subjected to column chromatography through silica gel (Wako Pure Chemicals, Ltd.; Wako gel C-100). 0.465 g of the title compound was obtained as crystals from the fractions eluted with a 95:5 by volume mixture of ethyl acetate and methanol.

reactant | 2-iodoethanol | 0.175 ml | ICCO | C2H5IO
reactant | sodium bicarbonate | 0.16 g | C([O-])(O)=O.[Na+]
reactant | (2S, 4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine | 0.5 g | C(N)(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC | C13H18N2O2S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2S, 4S)-2-Carbamoyl-1-(2-hydroxyethyl)-4-(4-methoxybenzylthio)pyrrolidine | 0.465 g | C(N)(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)CCO | C15H22N2O3S
